US04322420
7-Chloro-4-(N-methylanilino)quinazoline hydrochloride (Compound No. 56)
A solution of 3.0 g of 4,7-dichloroquinazoline and 1.7 g of N-methylaniline in 10 ml of ethanol was heated for 10 minutes. After completion of the reaction, the ethanol was distilled off and the resulting crystals were recrystallized from a small amount of ethanol to give 2.4 g (yield 46%) of the desired Compound No. 56 in the form of pale yellow granules melting at 230°-233° C. (with decomposition).

reactant | 4,7-dichloroquinazoline | 3.0 g | ClC1=NC=NC2=CC(=CC=C12)Cl | C8H4Cl2N2
reactant | N-methylaniline | 1.7 g | CNC1=CC=CC=C1 | C7H9N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-Chloro-4-(N-methylanilino)quinazoline hydrochloride | 2.4 g, yield 46% | Cl.ClC1=CC=C2C(=NC=NC2=C1)N(C1=CC=CC=C1)C | InChI=1S/C15H12ClN3.ClH/c1-19(12-5-3-2-4-6-12)15-13-8-7-11(16)9-14(13)17-10-18-15;/h2-10H,1H3;1H
